US06121285
4-(R)-(1-Ethoxycarbonylcyclopropyl)-3,3-difluoro-1-[1-(S)-phenylethyl]pyrrolidine
4-(S)-(1Ethoxycarbonylcyclopropyl)-3,3-difluoro-1-[1-(S)-phenylethyl]-2-pyrrolidinethione (2.883 g, 8.157 mmol) was dissolved in anhydrous ethanol (80 ml), and the solution was mixed with Raney nickel (8 ml) and stirred at room temperature for 30 minutes. After removing the catalyst by celite filtration (ethanol washing), the resulting filtrate was concentrated under reduced-pressure. The thus obtained residue was dissolved in diethyl ether (150 ml), washed with 10% ammonia water (100 ml×4) and saturated brine (100 ml) in that order and then dried over anhydrous magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure and the resulting residue was subjected to flash silica gel chromatography and eluted with an eluant of n-hexane:ethyl acetate=4:1, to thereby obtain 2.540 g (96.3%) of the title compound as a colorless oil.

reactant | 4-(S)-(1Ethoxycarbonylcyclopropyl)-3,3-difluoro-1-[1-(S)-phenylethyl]-2-pyrrolidinethione | 8.157 mmol, 2.883 g | C(C)OC(=O)C1(CC1)[C@@H]1C(C(N(C1)[C@@H](C)C1=CC=CC=C1)=S)(F)F | C18H21F2NO2S
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | Raney nickel | 8 ml | [Ni] | Ni
product | 4-(R)-(1-Ethoxycarbonylcyclopropyl)-3,3-difluoro-1-[1-(S)-phenylethyl]pyrrolidine | 2.540 g, 96.3% | C(C)OC(=O)C1(CC1)[C@H]1C(CN(C1)[C@@H](C)C1=CC=CC=C1)(F)F | C18H23F2NO2
